US05387704
0.50 g of 1-benzyloxycarbonylaminoanthraquinone, 25 ml of ethanol and 25 ml of 50% strength aqueous sodium hydroxide solution were heated under reflux for 6 hours and the solution was then concentrated in vacuo. The residue was taken up in chloroform/water, the phases were separated and the organic phase was washed twice with water. The organic phase was concentrated in vacuo and 0.30 g of 1-aminoanthraquinone (99% pure; 95% of theory) was obtained.

reactant | 1-benzyloxycarbonylaminoanthraquinone | 0.50 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C22H15NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-aminoanthraquinone | 0.30 g | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
